### PR TITLE
[Merged by Bors] - feat: Wedderburn's Little Theorem

### PR DESCRIPTION
**Pull request by ericrbg**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

This is an old proof of Johan's that's been mathported; it is sorry-free but any tidying is welcome! And suggestions on where to put these things.

### CODE REVIEW

File: Mathlib/RingTheory/LittleWedderburn.lean [hunk 1]
```diff
@@ -0,0 +1,144 @@
...
+  refine' (Fintype.card_lt_of_injective_of_not_mem _ Subtype.val_injective _).trans_le hD
+  · exact b
+  simp only [not_exists, Set.mem_range]
+  rintro y rfl
+  exact hb y.2
+
+
+end LittleWedderburn
+
+def littleWedderburn (D : Type _) [hD : DivisionRing D] [Finite D] : Field D :=
```
Comment (alexjbest) [inline Mathlib/RingTheory/LittleWedderburn.lean:142]: I guess this could be an instance in Lean 4? maybe it would be good to benchmark the affect of that somehow (if littlewedderburn isn't imported anywhere we won't see an effect elsewhere yet though).

Comment (ericrbg) [reply Mathlib/RingTheory/LittleWedderburn.lean]: I tried this:) in the case of instance it should probably be fully integral domain -> field, I think

Comment (alexjbest) [reply Mathlib/RingTheory/LittleWedderburn.lean]: Actually that one is potentially a little more complicated as field contains extra data (inv) that integral domain doesn't, so there is a potential for non-defeq loops.

Comment (alexjbest) [reply Mathlib/RingTheory/LittleWedderburn.lean]: When you tried it what happened? Why not include it in this pr then?

Comment (ericrbg) [reply Mathlib/RingTheory/LittleWedderburn.lean]: I just changed it in the code, the instance is of course not yet used so we'll have to wait and see what happens

Comment (alreadydone) [reply Mathlib/RingTheory/LittleWedderburn.lean]: IsDomain + Finite -> IsField could potentially be an instance though.

**Comment by ericrbg** [comment]
I'm confused how the simp failures are appearing; I added one theorem which isn't even `@[simp]`.

**Comment by alexjbest** [comment]
It looks like tc is timing out during linting. So it would be good to compare on those examples whether something was just pushed over the timeout or if it is a bad loop now or something

**Comment by ericrbg** [comment]
Oh, I was going to say that this file is not imported there but you're right that everything gets imported during a lint. I'll try have a dig through the trace, if not I'll just swap it back to a `def`

**Comment by ericrbg** [comment]
Ok, as it turns out importing `LittleWedderburn` into the file with the manifold failures doesn't work, due to conflicting notation (I think between `Algebra.adjoin` and some C^infty stuff). I just turned it back into a def for now.

**Comment by riccardobrasca** [comment]
Is this WIP or ready for review?

File: Mathlib/RingTheory/LittleWedderburn.lean [hunk 2]
```diff
@@ -0,0 +1,167 @@
...
+  have hq : 1 < q := by rw [card_Z]; exact Fintype.one_lt_card
+  let n := finrank Z D
+  cases' le_or_lt n 1 with hn hn
+  · rw [finrank_le_one_iff] at hn
+    rcases hn with ⟨x, hx⟩
+    refine' not_le_of_lt hZ _
+    rintro y - z
+    obtain ⟨r, rfl⟩ := hx y
+    obtain ⟨s, rfl⟩ := hx z
+    -- is there `rw` lemmas for this?
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/LittleWedderburn.lean:69]: This can be added, or the comment removed, or something like that.

File: Mathlib/RingTheory/LittleWedderburn.lean [hunk 3]
```diff
@@ -0,0 +1,167 @@
...
+private def field (hD : InductionHyp D) {R : Subring D} (hR : R < ⊤)
+  [Fintype D] [DecidableEq D] [DecidablePred (· ∈ R)] :
+    Field R :=
+  { show DivisionRing R from Fintype.divisionRingOfIsDomain R with
+    mul_comm := fun x y ↦ Subtype.ext <| hD R hR x.2 y.2 }
+
+-- this proof is currently hard to read through because of `(config := {zeta := false})` expanding
+-- all local definitions.
+private theorem center_eq_top [Finite D] (hD : InductionHyp D) : Subring.center D = ⊤ := by
+  classical
```
Comment (sgouezel) [inline Mathlib/RingTheory/LittleWedderburn.lean:53]: Could you sketch in a comment the proof you are doing, both here and in the file-level docstring?

File: Mathlib/RingTheory/LittleWedderburn.lean (hunk 2 above)
Comment (ericrbg) [reply Mathlib/RingTheory/LittleWedderburn.lean]: I found them :)

**Comment by riccardobrasca** [comment]
There is still [this](https://github.com/leanprover-community/mathlib4/pull/6800#discussion_r1329014753) comment that is waiting an answer, but then it is ready to go, thanks! (Maybe add a description of the PR and add this result to some library overview, it is pretty important). Thanks!

bors d+

**Comment by alexjbest** [comment]
@ericrbg what's the status here, its delegated, so are there still changes you want to make before merging?

**Comment by ericrbg** [comment]
I was asked to annotate the proof, and I was just waiting for the zeta changes to come in to do that so that the proof is actually legible in the infoview!

File: Mathlib/RingTheory/LittleWedderburn.lean [hunk 4]
```diff
@@ -0,0 +1,166 @@
...
+  cases nonempty_fintype D
+  set Z := Subring.center D
+  by_contra hZ
+  replace hZ := Ne.lt_top hZ
+  letI : Field Z := hD.field hZ
```
Comment (alexjbest) [inline Mathlib/RingTheory/LittleWedderburn.lean:58]: All these `letI`'s and `haveI`'s should probably just be lets and haves I think

Comment (alreadydone) [reply Mathlib/RingTheory/LittleWedderburn.lean:58]: You have to give it a name if you use `let` though.

Comment (alexjbest) [reply Mathlib/RingTheory/LittleWedderburn.lean:58]: Lol what, that's so random, still I think that's an issue that should be fixed separately. My understanding is that letI is really doing something quite different that let, and that that may even have a performance impact in some situations, but I'm not 100% sure about that.

**Comment by riccardobrasca** [comment]
Can you please fix the errors?

**Comment by ericrbg** [comment]
seems to have been a transient CI issue

File: Mathlib/RingTheory/LittleWedderburn.lean [hunk 5]
```diff
@@ -0,0 +1,162 @@
...
+/-!
+# Wedderburn's Little Theorem
+
+This file proves Wedderburn's Little Theorem.
+
+## Main Declarations
+
+* `littleWedderburn`: a finite division ring is a field.
+
+## Future work
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/LittleWedderburn.lean:19]: Can you add here the results discussed on Zulip? There is also https://en.wikipedia.org/wiki/Artin%E2%80%93Zorn_theorem

File: Mathlib/RingTheory/LittleWedderburn.lean [hunk 6]
```diff
@@ -0,0 +1,162 @@
...
+  exact Set.card_lt_card hR
+
+end LittleWedderburn
+
+open LittleWedderburn
+
+/-- A finite division ring is a field. See `Finite.isDomain_to_isField` and
+`Fintype.divisionRingOfIsDomain` for more general statements, but these create data, and therefore
+may cause diamonds if used improperly. -/
+def Finite.divisionRing_to_field (D : Type*) [DivisionRing D] [Finite D] : Field D :=
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/LittleWedderburn.lean:150]: Are you sure this cannot be an instance? 
```lean
example (D : Type*) [hD : DivisionRing D] [hF : Finite D] : hD = @Field.toDivisionRing D
    (@Finite.divisionRing_to_field D hD hF) := rfl
```
works, so I don't see any problem.

File: Mathlib/RingTheory/LittleWedderburn.lean [hunk 7]
```diff
@@ -0,0 +1,162 @@
...
+  { ‹DivisionRing D› with
+    mul_comm := fun x y ↦ by simp [Subring.mem_center_iff.mp ?_ x, center_eq_top D] }
+
+alias littleWedderburn := Finite.divisionRing_to_field
+
+/-- A finite domain is a field. See also `littleWedderburn` and `Fintype.divisionRingOfIsDomain`. -/
+theorem Finite.isDomain_to_isField (D : Type*) [Finite D] [Ring D] [IsDomain D] : IsField D := by
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/LittleWedderburn.lean:157]: Do you see a reason why `IsField` is not a class?

**Review by riccardobrasca — APPROVED** [review]
LGTM, thanks!!

bors d+

File: Mathlib/RingTheory/LittleWedderburn.lean (hunk 6 above)
Comment (ericrbg) [reply Mathlib/RingTheory/LittleWedderburn.lean:150]: Indeed it can; we're not adding any data here

File: Mathlib/RingTheory/LittleWedderburn.lean (hunk 7 above)
Comment (ericrbg) [reply Mathlib/RingTheory/LittleWedderburn.lean:168]: No, maybe that's worth refactoring!

**Comment by riccardobrasca** [comment]
Lean, are you telling me that in `Mathlib.Geometry.Manifold.Algebra.LeftInvariantDerivation` there is a finite division ring that you now know it is a field?!

**Comment by ericrbg** [comment]
i assume it's simpnf timing out, let's investigate

**Comment by ericrbg** [comment]
Linting seems to have passed locally :/ I'll try that, I think that file is just so slow though

**Comment by ericrbg** [comment]
bors r+

I don't think this is actually the solution, I think the correct solution for that file is to investigate why it is so slow in the first place.
